US06258829B1
Ethyl 2-(4-carboxyphenoxymethyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate
Ethyl 2-(4-formylphenoxymethyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate (3.05 g, 8.63 mmol) was dissolved in a mixed solution of 2-methyl-2-propanol (33.0 ml) and 2-methyl-2-butene (10.0 ml), and to the solution was added dropwise aqueous solution (26.0 ml) of sodium chlorite (80%, 4.88 g, 43.2 mmol) and sodium dihydrogenphosphate dihydrate (4.46 g, 28.6 mmol). Chloroform was added until insoluble matter was dissolved and then the solution was stirred at room temperature for 3.5 hours. The reaction solution was diluted with chloroform, mixed with water and then extracted with chloroform-methanol mixed solution (5:1). The thus obtained organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (chloroform:methanol=10:1) to obtain the title compound (2.84 g, 89.1%) as white powder.

reactant | Ethyl 2-(4-formylphenoxymethyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 8.63 mmol, 3.05 g | C(=O)C1=CC=C(OCC2=C(C=C3C(=N2)CCCCC3)C(=O)OCC)C=C1 | C21H23NO4
reactant | sodium chlorite | 43.2 mmol, 26.0 ml, 4.88 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate dihydrate | 28.6 mmol, 4.46 g | O.O.P(=O)(O)(O)[O-].[Na+]
reactant | water | O | H2O
solvent | 2-methyl-2-propanol | 33.0 ml | CC(C)(C)O | C4H10O
solvent | 2-methyl-2-butene | 10.0 ml | CC(C)=CC | C5H10
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 2-(4-carboxyphenoxymethyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 2.84 g, 89.1% | C(=O)(O)C1=CC=C(OCC2=C(C=C3C(=N2)CCCCC3)C(=O)OCC)C=C1 | C21H23NO5
